US07851637B2
A solution of (S)-Boc-Val-OH (1 g, 4.1 mmol), DMF (5 mL), and dimethylamine (4.3 ml of a 2 M solution in THF, 8.6 mmol) was treated with HBTU (2 g, 5.3 mmol) and stirred at ambient temperature overnight. The reaction mixture was added to saturated NaHCO3 (25 mL) and water (25 mL). The layers were separated and the aqueous layer was extracted with Et2O (3×40 μL). The combined organics, along with the white insoluble material, were stripped of solvent and treated with TFA (10 mL) during 3 h, at which point the TFA was evaporated in vacuo. The residue was coevaporated with toluene, dissolved in THF (50 mL), treated with LiAlH4 (1.6 g, 42 mmol), and the suspension held at reflux overnight. The reaction mixture was cooled in an ice bath and treated successively with IPA (10 mL) and 6M NaOH (5 mL); after stirring for 2 h, the suspension was filtered, concentrated in vacuo. The residue was suspended in brine (50 mL) and extracted with CH2Cl2 (3×15 mL), The combined organic extracts were dried (MgSO4), filtered and concentration in vacuo to afford a yellow oil of (2S)-1-dimethylamino-2-amino-3-methyl-butane which was used without further purification.

reactant | dimethylamine | CNC | C2H7N
reactant | HBTU | 5.3 mmol, 2 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | NaHCO3 | 25 mL | C(=O)(O)[O-].[Na+]
reactant | LiAlH4 | 42 mmol, 1.6 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | NaOH | 6M, 5 mL | [OH-].[Na+]
reactant | THF | C1CCOC1 | C4H8O
solvent | IPA | 10 mL | CC(C)O | C3H8O
solvent | water | 25 mL | O | H2O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | (2S)-1-dimethylamino-2-amino-3-methyl-butane | CN(C[C@H](C(C)C)N)C | C7H18N2
